US07858800B2
1) Production of 2-azidopyridine
Sodium azide (390 mg) was dissolved in 30 ml of methanol and cooled at −78° C., 6.0 ml of a methanolic solution of 740 mg of 1-fluoropyridinium triflate was dropped thereinto and the mixture was stirred for 4 hours. The solvent was evaporated in vacuo and the residue washed with 50 ml of diethyl ether to give 296 mg of the title compound in an ark oily crude product.

reactant | Sodium azide | 390 mg | [N-]=[N+]=[N-].[Na+]
reactant | 1-fluoropyridinium triflate | 740 mg | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=CC=CC=C1
solvent | methanol | 30 ml | CO | CH4O
product | 2-azidopyridine | 296 mg | N(=[N+]=[N-])C1=NC=CC=C1 | C5H4N4
